### PR TITLE
feat: CompTypeclasses 

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This PR provides type classes that tell that triples of maps compose.
They are inspired from the file RingHomComptypeclasses that is used for semilinear maps,
and will be used in #6057  to provide equivariant maps for mul actions, distrib mul actions, and refactor semilinear maps.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Function/CompTypeclasses.lean [hunk 1]
```diff
@@ -0,0 +1,65 @@
...
+
+instance instComp_id {N P : Type*} {φ : N → N} [IsId φ] {ψ : N → P} :
+    CompTriple φ ψ ψ where
+  comp_eq := by simp only [IsId.eq_id, Function.comp_id]
+
+instance instId_comp {M N : Type*} {φ : M → N} {ψ : N → N} [IsId ψ] :
+    CompTriple φ ψ φ where
+  comp_eq := by simp only [IsId.eq_id, Function.id_comp]
+
+instance (priority := 10) instComp {M N P : Type*}
```
Comment (jcommelin) [inline Mathlib/Logic/Function/CompTypeclasses.lean:50]: I would like to know if this instance is crucial for your applications. Because it always applies, it seems a bit dangerous to me.
I'm interested in your thoughts about this.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 2]
```diff
@@ -0,0 +1,105 @@
...
+instance (priority := 10) instComp {φ : M →* N} {ψ : N →* P} :
+    CompTriple φ ψ (ψ.comp φ) where
+  comp_eq := rfl
+
+lemma comp_apply
+    {φ : M →* N} {ψ : N →* P} {χ : M →* P} (h : CompTriple φ ψ χ) (x : M) :
+    ψ (φ x) = χ x := by
+  rw [← h.comp_eq, MonoidHom.comp_apply]
+
+@[simp]
```
Comment (jcommelin) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:94]: I doubt that this simp lemma will ever fire automatically, since many of the variables are not determined by the LHS of the conclusion.

File: Mathlib/Logic/Function/CompTypeclasses.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Logic/Function/CompTypeclasses.lean:50]: Initially, there were no instances. I had two versions of composition, one with a comp parameter as an instance, and the other one where it had to be supplied explicitly. 
I was worried to add instances, because Heather and Frédéric seem to be worried in their files about semilinear maps, but @j-loreaux suggested we could have everything as instances. And I tried, and it worked, so in the recent version, everything is an instance, and everything compiles without ever having to fill in the instances.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+    _root_.CompTriple φ ψ χ where
+  comp_eq := by rw [← MonoidHom.coe_comp, κ.comp_eq]
+
+instance (priority := 10) instComp {φ : M →* N} {ψ : N →* P} :
+    CompTriple φ ψ (ψ.comp φ) where
+  comp_eq := rfl
+
+lemma comp_apply
+    {φ : M →* N} {ψ : N →* P} {χ : M →* P} (h : CompTriple φ ψ χ) (x : M) :
+    ψ (φ x) = χ x := by
```
Comment (dupuisf) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:91]:
```suggestion
lemma comp_apply
    {φ : M →* N} {ψ : N →* P} {χ : M →* P} [CompTriple φ ψ χ] (x : M) :
    ψ (φ x) = χ x := by
```
Is there a reason why we don't do this here? It feels like having the instance found by typeclass inference is the whole point, no? Or perhaps we want both versions...? (It's a bit hard for me to tell, since I don't really know what the actual applications look like.)

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:91]: The actual applications are exactly the same as for semilinear maps, but for maps of types endowed with `Mul` or `MulAction`.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:94]: In fact, there is a similar lemma in the file relevant to semilinear maps, docs#RingHomCompTriple.comp_apply, and I wrote it by symmetry.

File: Mathlib/Logic/Function/CompTypeclasses.lean [hunk 4]
```diff
@@ -0,0 +1,65 @@
...
+  comp_eq := rfl
+
+lemma comp_inv {M N : Type*} {φ : M → N} {ψ : N → M}
+    (h : Function.RightInverse φ ψ) {χ : M → M} [IsId χ] :
+    CompTriple φ ψ χ where
+  comp_eq := by simp only [IsId.eq_id, h.id]
+
+lemma comp_apply {M N P : Type*}
+    {φ : M → N} {ψ : N → P} {χ : M → P} (h : CompTriple φ ψ χ) (x : M) :
+    ψ (φ x) = χ x := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Logic/Function/CompTypeclasses.lean:62]: I need to name the instance to be able to `rw` it in the proof.

**Comment by AntoineChambert-Loir** [comment]
The question is whether a single CompTriple class could be used to handle equivariant maps and semilinear maps. I don't dare trying to do that now.

**Comment by AntoineChambert-Loir** [comment]
Something does not work in the final phase of CI. Maybe having instances was not such a good idea afterwards.

**Comment by AntoineChambert-Loir** [comment]
I propose to close down this PR here, go back to the initial version #6057 where there is no generic CompTriple instance for composition.

**Comment by fpvandoorn** [comment]
please close this if it is no longer relevant
